US08389508B2
To a solution of methyl 1-[2-(3-{5-[3-cyano-4-(2-methylpropyl)phenyl]-1,3,4-thiadiazol-2-yl}-2-ethylphenyl)ethyl]-3-azetidinecarboxylate (D32) (59 mg) in isopropanol (3 mL) and water (3 mL) was added sodium hydroxide (50 mg). The reaction mixture was stirred at room temperature for 1 h. The reaction mixture was neutralized with 1 M HCl solution. The solvent was removed in vacuo. The residue was dissolved in THF, and filtered. The filtrate was purified by Mass Directed AutoPrep to give 1-[2-(3-{5-[3-cyano-4-(2-methylpropyl)phenyl]-1,3,4-thiadiazol-2-yl}-2-ethylphenyl)ethyl]-3-azetidinecarboxylic acid (E10) (17 mg) as an off-white solid. δH (DMSO-d6, 400 MHz): 0.93 (6H, d), 1.11 (3H, t), 1.99 (1H, m), 2.85 (6H, m), 3.38 (2H, m), 3.61 (1H, m), 4.27 (4H, m), 7.40 (1H, m), 7.51 (2H, t), 7.68 (1H, d), 8.31 (1H, dd), 8.46 (1H, d), 13.04 (1H, br s). MS (ES): C27H30N4O2S requires 474. found 475.2 (M+H+).

reactant | methyl 1-[2-(3-{5-[3-cyano-4-(2-methylpropyl)phenyl]-1,3,4-thiadiazol-2-yl}-2-ethylphenyl)ethyl]-3-azetidinecarboxylate | 59 mg | C(#N)C=1C=C(C=CC1CC(C)C)C1=NN=C(S1)C=1C(=C(C=CC1)CCN1CC(C1)C(=O)OC)CC | C28H32N4O2S
reactant | sodium hydroxide | 50 mg | [OH-].[Na+]
reactant | HCl | 1 M | Cl | ClH
solvent | isopropanol | 3 mL | C(C)(C)O | C3H8O
solvent | water | 3 mL | O | H2O
product | 1-[2-(3-{5-[3-cyano-4-(2-methylpropyl)phenyl]-1,3,4-thiadiazol-2-yl}-2-ethylphenyl)ethyl]-3-azetidinecarboxylic acid | 17 mg | C(#N)C=1C=C(C=CC1CC(C)C)C1=NN=C(S1)C=1C(=C(C=CC1)CCN1CC(C1)C(=O)O)CC | C27H30N4O2S
